US05352801
(Z)-5-isobutylidene-4-methoxy-3-pyrrolin-2-one
120 g of (E)-2-chloro-3-methoxybut-2-enoic acid methyl ester was instilled in 200 ml of concentrated aqueous ammonia solution at 65° to 70° C. with constant passing through of ammonia gas within 3 hours. The reaction mixture was stirred another 1.5 hours at this temperature and then refluxed another 0.5 hour. After cooling to room temperature, 450 ml of 1M sodium hydroxide solution was added and the pH was brought to greater than 13 by the further addition of 33 percent sodium hydroxide solution. Then 50 g of isobutyraldehyde was added and the reaction mixture was heated to 60° C. with stirring for 6 hours. After cooling to room temperature, the precipitated product was filtered off, washed with cold water and dried in a vacuum drying cabinet. The yield of the title compound was 93.2 g (80 percent of theory). The title compound had a melting point of 140.5° to 141.1° C. (from diethyl ether).

reactant | (E)-2-chloro-3-methoxybut-2-enoic acid methyl ester | 120 g | COC(/C(=C(/C)\OC)/Cl)=O | C6H9ClO3
reactant | sodium hydroxide | 1M, 450 ml | [OH-].[Na+]
reactant | isobutyraldehyde | 50 g | C(C(C)C)=O | C4H8O
reactant | ammonia | 200 ml | N | H3N
product | (Z)-5-isobutylidene-4-methoxy-3-pyrrolin-2-one | C(/C(C)C)=C/1\C(=CC(N1)=O)OC | C9H13NO2
